US05241064
To a solution of ethyl 2-(1-hydroxyethyl)acrylate (40 g) and pyridine (26.9 ml) in dichloromethane (277 ml) was added dropwise acetyl chloride (23.7 ml) at 0° C. The reaction mixture was stirred for 1 hour and quenched with water (200 ml). The aqueous layer was separated and extracted twice with dichloromethane. The combined organic layers were washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate water and an aqueous sodium chloride in turn, and then, dried over magnesium sulfate. After the resultant solution was evaporated, the residue was distilled in vacuo to give ethyl 2-(1-acetoxyethyl)acrylate (41.44 g) as a colorless oil.

reactant | ethyl 2-(1-hydroxyethyl)acrylate | 40 g | OC(C)C(C(=O)OCC)=C | C7H12O3
reactant | pyridine | 26.9 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 23.7 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 277 ml | ClCCl | CH2Cl2
product | ethyl 2-(1-acetoxyethyl)acrylate | 41.44 g | C(C)(=O)OC(C)C(C(=O)OCC)=C | C9H14O4
